US08455483B2
a) 2-(2-(2,2-diethoxyethoxy)phenyl)ethanol
2-bromo-1,1-diethoxyethane (5.13 g) was added to a stirred mixture of cesium carbonate (8.49 g) and 2-(2-hydroxyethyl)phenol (3.00 g) in DMF (20 mL). After 5 minutes the reaction mixture was heated at 80° C. 16 h, the reaction mixture was allowed to cool and partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water (×3) then evaporated. Purification by silica gel chromatography eluting with ethyl acetate:iso-hexanes, 1:3 gave the subtitle compound as a green oil. Yield 3.6 g.

reactant | 2-bromo-1,1-diethoxyethane | 5.13 g | BrCC(OCC)OCC | C6H13BrO2
reactant | cesium carbonate | 8.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-hydroxyethyl)phenol | 3.00 g | OCCC1=C(C=CC=C1)O | C8H10O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(2-(2,2-diethoxyethoxy)phenyl)ethanol | C(C)OC(COC1=C(C=CC=C1)CCO)OCC | C14H22O4
